US06218156B1
The recombinant E. coil HB101(pNTS1G) obtained in Example 10 was inoculated in 100 ml of a 2×YT medium sterilized in a 500 ml Sakaguchi flask, and cultured with agitation at 37° C. for 13 hours. Glucose, 7.5 g, 3.2 mg of NADP, and then 4 g of ethyl 2-methyl-3-oxoacetate were added to 50 ml of the resultant culture. The culture was stirred at 30° C. while being adjusted at pH 6.5 with a 5 M sodium hydroxide solution to allow for reaction for 18 hours. After the reaction, the reaction solution was subjected to extraction using ethyl acetate, the solvent was removed under decompression, and the concentrate was purified by silica gel column chromatography, to obtain 3.5 g of ethyl 3-hydroxy-2-methylbutyrate. The optical purity of the ethyl 3-hydroxy-2-methylbutyrate was analyzed as follows and found to be 91.6% e.e. The analysis was performed in the following manner. The sample was reacted with sodium cyanide in demethyl sulfoxide at room temperature to obtain ethyl 4-cyano-3-hydroxybutyrate, which was then changed to a benzoic ester using benzoyl chloride under the presence of pyridine. The optical purity of the benzoic ester was measured by the HPLC method. 1H-NMR(CDC13)δ(ppm): 1.17(3H,t), 1.22(2H,t), 1.28(3H,t), 2.46(1H,m), 2.82(1H,br), 3.90(1H,m), 4.18(2H,q).

reactant | ethyl 3-hydroxy-2-methylbutyrate | OC(C(C(=O)OCC)C)C | C7H14O3
reactant | sodium cyanide | [C-]#N.[Na+]
product | ethyl 4-cyano-3-hydroxybutyrate | C(#N)CC(CC(=O)OCC)O | C7H11NO3
